US09029560B2
Preparation of 1-[(5-methyl-2-propyl-phenyl)carbamothioyl]-3-[3-[4-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]propyl]urea (PC99)
The title compound was prepared as described in Example 63 using 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine (C60) and 1-(5-methyl-2-propylphenyl)thiourea (CA38). Sodium acetate was used in place of sodium bicarbonate. The title compound was isolated as a white solid (0.111 g, 35%): 1H NMR (400 MHz, DMSO-d6) δ 12.01 (s, 1H), 10.04 (s, 1H), 9.39 (s, 1H), 8.14-7.98 (m, 4H), 7.62 (d, J=8.6 Hz, 2H), 7.45-7.33 (m, 3H), 7.14 (d, J=7.8 Hz, 1H), 7.09 (t, J=5.7 Hz, 1H), 7.05-6.98 (m, 1H), 3.17 (q, J=6.5 Hz, 2H), 2.70 (t, J=7.6 Hz, 2H), 2.49-2.41 (m, 2H), 2.27 (s, 3H), 1.81 (dt, J=13.7, 6.7 Hz, 2H), 1.50 (q, J=7.4 Hz, 2H), 0.86 (t, J=7.3 Hz, 3H); 19F NMR (376 MHz, DMSO-d6) δ −56.97; ESIMS m/z 597 ([M+H]+), 595 ([M−H]−).

reactant | 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CCCN)(F)F | C18H17F3N4O
reactant | 1-(5-methyl-2-propylphenyl)thiourea | CC=1C=CC(=C(C1)NC(=S)N)CCC | C11H16N2S
reactant | Sodium acetate | C(C)(=O)[O-].[Na+]
product | 1-[(5-methyl-2-propyl-phenyl)carbamothioyl]-3-[3-[4-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]propyl]urea | CC=1C=CC(=C(C1)NC(=S)NC(=O)NCCCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)CCC | C30H31F3N6O2S
